US04996203
STEP 30A: 3-Iodo-4-benzyloxy-5-methoxybenzaldehyde
Benzyl chloride (30 g, 0.24 mol) was added to a solution of 5-iodovanillin (60 g, 0.216 mol) in DMF (250 mL) containing potassium carbonate (50 g). The mixture was stirred at 80° C. for 1.5 h or until TLC (hexane-ethyl acetate; 4:1, v/v; Rf 0.5) showed the reaction to be complete. The mixture was then cooled and the solvent was decanted into ice-water (1 L). The product was extracted with ethyl ether and the ethereal layer was washed with water, dried, and evaporated in vacuo to an oil, which solidified upon standing: mp 53°-54° C.

reactant | Benzyl chloride | 0.24 mol, 30 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 5-iodovanillin | 0.216 mol, 60 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 3-Iodo-4-benzyloxy-5-methoxybenzaldehyde | IC=1C=C(C=O)C=C(C1OCC1=CC=CC=C1)OC | C15H13IO3
